US08440689B2
B. (R)-tert-Butyl 1-ethoxy-3-hydroxypropan-2-ylcarbamate
To a solution of (S)-2-(tert-butoxycarbonylamino)-3-ethoxypropanoic acid (1.81 g, 7.76 mmol) in THF (20 mL) at −15° C. was added isobutyl chloroformate (1.015 mL, 7.76 mmol) in THF (5 mL) and 4-methylmorpholine (0.853 mL, 7.76 mmol) in THF (5 mL). After stirring for 10 min at −15° C., the mixture was slowly added to a solution of sodium borohydride (0.881 g, 23.28 mmol) in H2O (7 mL). The mixture was stirred at −15° C. for 30 min and was diluted with EtOAc. The organic layer was washed with saturated aq NaHCO3 and brine and dried. The residue was carried to next step without further purification (1.6 g, 94%). [M+H] calc'd for C10H21NO4, 220. found, 220.

reactant | (S)-2-(tert-butoxycarbonylamino)-3-ethoxypropanoic acid | 7.76 mmol, 1.81 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COCC | C10H19NO5
reactant | isobutyl chloroformate | 7.76 mmol, 1.015 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-methylmorpholine | 7.76 mmol, 0.853 mL | CN1CCOCC1 | C5H11NO
reactant | sodium borohydride | 23.28 mmol, 0.881 g | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 7 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-tert-Butyl 1-ethoxy-3-hydroxypropan-2-ylcarbamate | C(C)OC[C@@H](CO)NC(OC(C)(C)C)=O | C10H21NO4
